US08686134B2
A slight excess of 1,5-dibromopentane was added dropwise to a solution of azepane and sodium hydroxide in water and stirred at reflux for several hours. The solution was then cooled to room temperature and diluted with aqueous sodium hydroxide. The reaction mixture was then extracted with chloroform, washed with water several times and evaporated to dryness to yield the white solid 6-azonia-spiro[5,6]dodecane bromide with a melting point of 260° C. 1H-NMR (300 MHz, D2O) δ 1.50 (m, 6H, CH2), 1.75 (m, 8H, CH2), 3.20 (t, 4H, N—CH2), 3.30 (t, 4H, N—CH2).

reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
reactant | azepane | N1CCCCCC1 | C6H13N
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 6-azonia-spiro[5,6]dodecane bromide | [Br-].C1CCCC[N+]12CCCCCC2 | InChI=1S/C11H22N.BrH/c1-2-5-9-12(8-4-1)10-6-3-7-11-12;/h1-11H2;1H/q+1;/p-1
